US04889851
A solution of 2-(4-isopropoxycarbonylmethylphenyl)-6-isopropoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (95 mg) in a mixture of 1,4-dioxane (6 ml), water (2 ml) and conc. hydrochloric acid (1 ml) was refluxed for two hours. After the mixture was concentrated in vacuo, the residue was extracted two times with ethyl acetate. The combined organic layers were washed with water and brine, dried over MgSO4. After the solvent was evaporated under reduced pressure, the crystalline residue was recrystallized from ethanol to yield 2-(4-carboxymethylphenyl)-6-isopropoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (61 mg) as pale yellow crystals.

reactant | 2-(4-isopropoxycarbonylmethylphenyl)-6-isopropoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 95 mg | C(C)(C)OC(=O)CC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C)(=O)=O | C22H26N2O6S
reactant | water | 2 ml | O | H2O
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2-(4-carboxymethylphenyl)-6-isopropoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 61 mg | C(=O)(O)CC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C)(=O)=O | C19H20N2O6S
